US05716971
A solution of 4-(2-trimethylsilylethynyl)phenol methoxymethyl ether (6.08 g) in diethyl ether (450 ml) was cooled to -78° C., to which was added dropwise, under argon atmosphere, a 1.7M t-butyl lithium pentane solution (18 ml), and the mixture was stirred for one hour at the same temperature. To the reaction mixture was then added dropwise DMF(5 ml), followed by warming up to room temperature and stirring overnight. To the reaction mixture were added ethyl acetate and water, which was subjected to extraction. The organic layer was washed (a saturated aqueous saline solution) and dried (anhydrous magnesium sulfate), followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 5-(2-trimethylsilylethynyl)-2-methoxymethoxybenzaldehyde (5.29 g) (Compound B-27). The physical properties are shown in Table 8.

reactant | 4-(2-trimethylsilylethynyl)phenol methoxymethyl ether | 6.08 g | COCOC1=CC=C(C=C1)C#C[Si](C)(C)C | C13H18O2Si
reactant | t-butyl lithium pentane | 1.7M, 18 ml | CCCCC.C(C)(C)(C)[Li]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-(2-trimethylsilylethynyl)-2-methoxymethoxybenzaldehyde | 5.29 g | C[Si](C#CC=1C=CC(=C(C=O)C1)OCOC)(C)C | C14H18O3Si
